Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
amlodipine / levofloxacin / ibuprofen
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___ Aortic valve replacement
 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of aortic 
insufficiency and multiple myeloma. He is well known to cardiac 
surgery. For full details, please see prior H&Ps. Briefly, he 
has been followed closely by cardiology for aortic 
insufficiency. He has noted worsening dyspnea on exertion. He 
was referred to Dr. ___ in ___ for surgical 
consultation and aortic valve replacement was recommended. He 
opted to wait to have surgery in ___ however this was 
cancelled due to bronchitis. He presented for preadmission 
testing and evaluation. Since his last visit, he had a repeat 
TTE which revealed moderate to severe aortic insufficiency. He 
has noted fatigue, presyncope/dizziness, blurred vision, left 
sided chest burning, and dyspnea on exertion. He denied syncope, 
lightheadedness, shortness of breath at rest, palpitations, 
orthopnea, paroxysmal nocturnal dyspnea, or lower extremity 
edema.
 
Past Medical History:
Aortic Insufficiency
Anxiety
Astigmatism
Central Retinal Vein Occlusion
Congestive Heart Failure, chronic
Depression
Dry Eye Syndrome
Hypertension
Multiple Myeloma
Neck mass
Presbyopia
Rhinitis
Sleep Apnea on CPAP
Appendectomy in ___
Bone Marrow Transplant
 
Social History:
___
Family History:
Denies premature CAD and/or SCD
 
Physical Exam:
HR: 60  BP: 149/88  RR: 17  O2 Sat: 100% RA 
Height: 66"  Weight: 200 lbs 

General: Pleasant man, WDWN, NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRLA, EOMI, OP benign 
Neck: Supple, full ROM 
Chest: Lungs clear bilaterally 
Heart: Regular rate and rhythm, II/VI holodiastolic murmur at 
___
Abd: Normal BS, soft, non-tender, non-distended 
Extremities: Warm, well-perfused; trace bilateral edema
Varicosities: None 
Neuro: Grossly intact 
Pulses:
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit: none

Discharge Exam: T
T: 98.6  HR: ___ SR  BP: 106-117/83 RR: 16  Sats: 93% RA
Wt: 89.7 kg
General: NAD
Cardiac: RRR
Resp: clear breath sounds
GI: benign
Extr: warm no edema
Sternal: clean dry intact, stable no erythema 
 
Pertinent Results:
Admission Labs:
___ WBC-11.7* RBC-2.79* Hgb-9.1* Hct-26.9* MCV-96 MCH-32.6* 
MCHC-33.8 RDW-12.9 RDWSD-45.0 Plt ___
___ UreaN-12 Creat-1.1 Cl-113* HCO3-22 AnGap-8*
___ Calcium-7.9* Phos-3.5 Mg-2.2
Discharge Labs:
___ WBC-9.2 RBC-3.73* Hgb-12.0* Hct-36.7* MCV-98 MCH-32.2* 
MCHC-32.7 RDW-13.2 RDWSD-47.0* Plt ___
___ Glucose-97 UreaN-13 Creat-1.0 Na-140 K-4.1 Cl-100 
HCO3-30 AnGap-10
___ Mg-2.0

Echocardiogram ___
PRE-OPERATIVE STATE: Pre-bypass assessment. Sinus rhythm.
Right Atrium (RA)/Interatrial Septum/Inferior Vena Cava (IVC): 
Left to right flow is seen through a
small patent foramen ovale.
Left Ventricle (LV): Normal wall thickness. Normal cavity size. 
Low normal ejection fraction. There appears
to be mild apical hypokinesis. The calculated cardiac output by 
continuity equation is 6.2L/min.
Right Ventricle (RV): Mild cavity dilation. Low normal free wall 
motion.
Aorta: Mild sinus dilation. Mild ascending dilation. Normal 
descending aorta diameter. No dissection. Simple
descending atheroma.
Aortic Valve: Thin/mobile (3) leaflets. No stenosis. Moderate 
[2+] regurgitation. Eccentric jet directed to
anterior mitral leaflet. There appears to be good coaptation 
between the right and non-coronary cusps, but
the left cusp does not coapt well with the other two.
Mitral Valve: Normal leaflets. Trace regurgitation.
Pulmonic Valve: Normal leaflets. Mild regurgitation.
Tricuspid Valve: Normal leaflets. Mild [1+] regurgitation.
Pericardium: No effusion.

POST-OP STATE: The post-bypass TEE was performed at 12:25:00. AV 
paced rhythm.
Left Ventricle: Similar to preoperative findings. Global 
ejection fraction is low normal.
Right Ventricle: No change in systolic function.
Aorta: Intact. No dissection.
Aortic Valve: A paravalular leak is seen in the area of the 
anatomical right coronary cusp. After two attempts
to surgically repair this, the paravalvular leak is still seen. 
There is a second, smaller paravalvular leak in the
area of the right and left coronary commissure. There is trace 
central valvular insufficiency. Bioprosthetic
valve. Well seated prosthesis. Normal leaflet motion. 
Post-bypass, the peak aortic valve gradient is 9mmHg
with a mean gradient of 5mmHg with cardiac output of 5.4L/min. 
Mild [1+] paravalvular regurgitation.
Mitral Valve: No change in mitral valve morphology from 
preoperative state.
Tricuspid Valve: No change in tricuspid valve morphology vs. 
preoperative state.
Pericardium: No effusion.

CXR ___
Patient is status post aortic valve replacement.  Cardiac, 
mediastinal and 
hilar contours appear stable.  Right hemidiaphragm is again 
mildly elevated.  There is no definite pleural effusion.  Left 
lower lobe opacities are probably due to atelectasis, somewhat 
increased although otherwise lungs appear better aerated with 
decreased areas of upper lung atelectasis.  No pneumothorax.  
Bony structures are unremarkable. 

 
Brief Hospital Course:
Mr. ___ was a same day admit and on ___ he was taken 
directly to the operating room where he underwent an aortic 
valve replacement ___ Magna ease). Please see operative note 
for surgical details. Following surgery he was transferred to 
the CVICU for invasive monitoring in stable condition. Later 
this day he was weaned from sedation, awoke neurologically 
intact and was weaned from the ventilator, extubated and was 
hemodyanamically stable. Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight.  The 
patient was transferred to the telemetry floor for further 
recovery.  Chest tubes and pacing wires were discontinued 
without complication. His CPAP at night continued.  Aspirin was 
restarted.  The patient was evaluated by the Physical Therapy 
service for assistance with strength and mobility.  By the time 
of discharge on POD #4 the patient was ambulating freely, the 
wound was healing and pain was controlled with oral analgesics.  
The patient was discharged to home in good condition with 
appropriate follow up instructions.
 
Medications on Admission:
Acyclovir 400 mg tablet Q12 hours
Losartan 50 mg tablet mouth once a day
Metoprolol Succinate ER 25 mg tablet once a day
Pantoprazole 20 mg tablet once a day
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Aspirin EC 81 mg PO DAILY  
3.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*20 
Tablet Refills:*0 
4.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
take with food and water  
5.  Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*90 Tablet Refills:*2 
6.  Polyethylene Glycol 17 g PO DAILY  
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0 
8.  Acyclovir 400 mg PO Q12H  
9.  Pantoprazole 20 mg PO Q24H  
10. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until seen by your 
cardiologist

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Aortic Insufficiency s/p Aortic valve replacement
Past medical history:
Anxiety
Astigmatism
Central Retinal Vein Occlusion
Congestive Heart Failure, chronic
Depression 
Dry Eye Syndrome
Hypertension
Multiple Myeloma
Neck mass
Presbyopia
Rhinitis
Sleep Apnea on CPAP
Appendectomy in ___
Bone Marrow Transplant
 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage
Edema: Trace

 
Discharge Instructions:
1. Shower daily -wash incisions gently with mild soap, 
2. No baths or swimming, look at your incisions daily
3. NO lotion, cream, powder or ointment to incision
4. Monitor incision for signs of infection: Fever > 101.5, 
redness, drainage or increase pain. Should you have any of these 
symptoms please call the office immediately.
5. Daily weights: keep a log. Please call the office with a 
weight gain of ___ pounds over days for additional diuretic 
instructions.
6. No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
7. No lifting more than 10 pounds for 10 weeks
8. Encourage full shoulder range of motion, unless otherwise 
specified

 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Pain:
Acetaminophen 1000 mg every 6 hours x 3 days then as needed for 
pain
Ibuprofen 400 mg every 8 hours x 3 days then as needed for pain 
(take with food and water)
Tramadol 50 mg every 6 hours as needed for severe pain
 
Followup Instructions:
___